US06994800B1
Potassium bis(n-hexyldimethylsilyl)amide was prepared as follows: Potassium bis(trimethylsilyl)amide (5.07 g, 25.6 mmol) and bis(n-hexyldimethylsilyl)amine (7.66 g, 25.6 mmol) were added to a flask and 50 mL toluene was added. The clear yellow solution was stirred at room temperature for 18 hours and then refluxed for two hours. The toluene and hexamethyldisilazane byproduct were removed from the brown toluene solution under vacuum with heating to 150° C. to yield a brown oil (5.40 g, 63%). Its viscosity was measured to be 271 centipoise at 40° C. It may be flash vaporized from a heated nozzle for CVD applications. Alternatively, it may be dissolved in small amounts of organic solvents to form concentrated solutions that may be flash vaporized.

reactant | Potassium bis(trimethylsilyl)amide | 25.6 mmol, 5.07 g | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | bis(n-hexyldimethylsilyl)amine | 25.6 mmol, 7.66 g | C(CCCCC)[Si](C)(C)N[Si](CCCCCC)(C)C | C16H39NSi2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | Potassium bis(n-hexyldimethylsilyl)amide | C(CCCCC)[Si](C)(C)[N-][Si](CCCCCC)(C)C.[K+] | InChI=1S/C16H38NSi2.K/c1-7-9-11-13-15-18(3,4)17-19(5,6)16-14-12-10-8-2;/h7-16H2,1-6H3;/q-1;+1
